US07015218B1
N-{4-[4-Bis(2-methoxyethyl)aminopiperidin-1-yl]-3-cyanophenyl}-1-(4-chlorophenyl)-5-methylpyrazole-4-carboxamide ¼ hydrate
By the reaction and treatment in the same manner as in Example 150 using 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride (0.83 g) and 5-amino-2-[4-bis(2-methoxyethyl)aminopiperidin-1-yl]benzonitrile (0.9 g), the title compound (0.52 g) was obtained, melting point: 152° C.

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride | 0.83 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)Cl | C11H8Cl2N2O
reactant | 5-amino-2-[4-bis(2-methoxyethyl)aminopiperidin-1-yl]benzonitrile | 0.9 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N(CCOC)CCOC | C18H28N4O2
product | N-{4-[4-Bis(2-methoxyethyl)aminopiperidin-1-yl]-3-cyanophenyl}-1-(4-chlorophenyl)-5-methylpyrazole-4-carboxamide | 0.52 g | COCCN(C1CCN(CC1)C1=C(C=C(C=C1)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)Cl)C#N)CCOC | C29H35ClN6O3
